US04918080
1-(5-Fluoro-1-naphthalenyl)ethanone
Methyl lithium (1.4M solution in ether; 6.6 ml) was added dropwise to a stirred solution of 5-fluoro-1-naphthalene carboxylic acid (870 mg) in dry THF (15 ml) at -78° under nitrogen. The reaction mixture was allowed to warm to room temperature over 2 h and was treated with 2N sodium hydroxide (60 ml). The mixture was extracted with ether (2×30 ml), and the combined, dried organic extracts were evaporated to give the title compound (865 mg) as an oil, t.l.c. (System B, 1:6) Rf 0.3.

reactant | Methyl lithium | 1.4M, 6.6 ml | C[Li]
reactant | 5-fluoro-1-naphthalene carboxylic acid | 870 mg | FC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7FO2
reactant | sodium hydroxide | 2N, 60 ml | [OH-].[Na+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(5-Fluoro-1-naphthalenyl)ethanone | 865 mg | FC1=C2C=CC=C(C2=CC=C1)C(C)=O | C12H9FO
